US08754114B2
N-[3-(7-{1-[2-(3,3-Difluoropyrrolidin-1-yl)-1-methyl-2-oxoethyl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 54, Step 3 starting from 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid and 3,3-difluoropyrrolidine hydrochloride (Matrix and Cat. No. 008716). LCMS (M+H)+: m/z=563.3.

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=NN(C2)C(C(=O)O)C)(F)F | C21H18F3N7O3
reactant | 3,3-difluoropyrrolidine hydrochloride | Cl.FC1(CNCC1)F
product | N-[3-(7-{1-[2-(3,3-Difluoropyrrolidin-1-yl)-1-methyl-2-oxoethyl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | FC1(CN(CC1)C(C(C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)=O)F | C25H23F5N8O2
